US09328124B2
[4-Amino-1-(5-fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-4-pyrazin-2-yl-pyrrolidin-3-yl]methanol
A solution of 5-(5-fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-6a-pyrazin-2-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole (0.92 g, 2.77 mmol) in ethanol (40 mL) is hydrogenated at 50 psi in the presence of Raney nickel (as a slurry in water) (2.7 g, 45.54 mmol) for 5 hours using a PARR hydrogenator. Methanol is added and the catalyst removed by filtration through a pad of diatomaceous earth. The diatomaceous earth pad is washed with methanol. The combined filtrates are concentrated under reduced pressure to give the title compound (0.92 g, 99%). ES/MS (m/e): 335 (M+1).

reactant | 5-(5-fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-6a-pyrazin-2-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 2.77 mmol, 0.92 g | FC=1C(=NC(=NC1C)N1CC2(NOCC2C1)C1=NC=CN=C1)OC | C15H17FN6O2
reactant | Methanol | CO | CH4O
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | [4-Amino-1-(5-fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-4-pyrazin-2-yl-pyrrolidin-3-yl]methanol | 0.92 g, 99% | NC1(C(CN(C1)C1=NC(=C(C(=N1)OC)F)C)CO)C1=NC=CN=C1 | C15H19FN6O2
